US04857530
4-(2-Propynylamino)benzamide
A suspension of 13.62 g (0.1 mol) of 4-aminobenzamide, 17.85 g (0.12 mol) of an 80% solution of 3-bromo-1-propyne in toluene, and 13.98 ml (0.12 mol) of 2,6-dimethylpyridine in 140 ml of dimethylacetamide (DMA) is stirred at 60° C. for two hours and then at 90° C. for one hour. The solution is cooled and the precipitated solid is collected and discarded. The filtrate is poured into a water-ice mixture and stirred. The suspension is extracted with ethyl acetate. The ethyl acetate solution is separated, dried (magnesium sulfate), and concentrated to give 20.7 g of a brown liquid. This is applied to a column of 1 kg of flash silica gel packed in dichloromethane-methanol (50:1). Elution with the same solvent gives 6.73 g (38.7%) of the product as a yellow solid, mp 139°-141° C.

reactant | 4-aminobenzamide | 0.1 mol, 13.62 g | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | 3-bromo-1-propyne | BrCC#C | C3H3Br
reactant | 2,6-dimethylpyridine | 0.12 mol, 13.98 ml | CC1=NC(=CC=C1)C | C7H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dimethylacetamide | 140 ml | CC(=O)N(C)C | C4H9NO
product | 4-(2-Propynylamino)benzamide | 20.7 g | C(C#C)NC1=CC=C(C(=O)N)C=C1 | C10H10N2O
